US06140330
To a solution of 4-methoxycarbonylcinnamic acid (4.64 g) in acetic acid (300 ml) is added 10% palladium-carbon (0.5 g), and the mixture is subjected to hydrogenation at 70° C. under atmospheric pressure for two hours. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. To the residue is added water, and the precipitated white powder is collected by filtration to give 3-(4-methoxycarbonylphenyl)propionic acid (3.87 g).

reactant | 4-methoxycarbonylcinnamic acid | 4.64 g | COC(=O)C1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 3-(4-methoxycarbonylphenyl)propionic acid | 3.87 g | COC(=O)C1=CC=C(C=C1)CCC(=O)O | C11H12O4
